US07923561B2
1-Methyl-1H-imidazole-4-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-5-yl]-amide
The title compound, MS: m/e=420.3 (M+H+), was prepared in accordance with the general method of example 45 from 5-nitro-2-chloroquinoline, (R)-1-aminoindane and 1-methylimidazol-4-sulfonylchloride.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | (R)-1-aminoindane | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | 1-methylimidazol-4-sulfonylchloride | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
product | 1-Methyl-1H-imidazole-4-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-5-yl]-amide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C=1N=CN(C1)C | C22H21N5O2S
